US06677368B2
To a solution of 4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one (72 mg, 0.25 mmol) and 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (62.8 mg, 0.25 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 5-[4-(4-bromo-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (82 mg, 63%).

reactant | 4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 72 mg | BrC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C14H10BrNO
reactant | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.25 mmol, 62.8 mg | C(C)N(CCNC(=O)C1=CNC(=C1C)C=O)CC | C13H21N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-[4-(4-bromo-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 82 mg, 63% | C(C)N(CCNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=CC(=C12)C1=CC=C(C=C1)Br)=O)CC | C27H29BrN4O2
